US05225423
(c) Preparation of N-(6-chloro-3-pyridylmethyl) phthalimide
2-Chloro-5-chloromethylpyridine (8.1 g, 0.05 mol) and potassium phthalimide (10.2 g, 0.055 mol) were mixed together at ambient temperature (20° C.) and the resulting mixture was then heated with stirring at 160° C. for 12 hours. The reaction mixture was then cooled to ambient temperature (20° C.) and dichloromethane was added until most of the solid residue had dissolved. The dichloromethane extract was then washed with water (2×150 ml) and brine (1×200 ml), dried using magnesium sulphate, and evaporated under reduced pressure to give a light-brown solid. The title product, N-(6-chloro-3-pyridylmethyl) phthalimide, was isolated from this solid by flash chromatography using silica gel, 230 to 400 US mesh (0.062 mm to 0.037 mm), with 10% v/v ether/ dichloromethane as eluent, as a buff solid (10.70 g, 78.5%), mp 140° to 142° C.

reactant | 2-Chloro-5-chloromethylpyridine | 0.05 mol, 8.1 g | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
reactant | potassium phthalimide | 0.055 mol, 10.2 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(6-chloro-3-pyridylmethyl) phthalimide | ClC1=CC=C(C=N1)CN1C(C=2C(C1=O)=CC=CC2)=O | C14H9ClN2O2
